US05464796
a) 2-Bromo-3,4,5,6-tetrafluoro-benzoyl chloride
365 g (1.33 mol) of 2-bromo-3,4,5,6-tetrafluorobenzoic acid [Tetrahedron 2.3, 4719 (1967)] are introduced into 2 l of thionyl chloride and the mixture is heated under reflux for 11 hours until the evolution of gas stops. Excess thionyl chloride is stripped off in vacuo and the residue is distilled.

reactant | 2-bromo-3,4,5,6-tetrafluorobenzoic acid | 1.33 mol, 365 g | BrC1=C(C(=O)O)C(=C(C(=C1F)F)F)F | C7HBrF4O2
reactant | thionyl chloride | 2 l | S(=O)(Cl)Cl | Cl2OS
product | 2-Bromo-3,4,5,6-tetrafluoro-benzoyl chloride | BrC1=C(C(=O)Cl)C(=C(C(=C1F)F)F)F | C7BrClF4O
